US07157488B2
2-Phenylphenethylamine
Combine 2-phenylphenylacetonitrile (4.69 g, 24.26 mmol) and diethyl ether (10 ml) and add dropwise to a cooled (−10°) solution of LiAlH4 (2.76 g, 72.81 mmol) in diethyl ether (100 ml). Warm to ambient temperature. After 2 hours, quench with saturated sodium sulfate (100 ml/mol). Filter to remove the precipitate, dry (Na2SO4) the filtrate, filter, and concentrate to residue. Chromatograph the residue on silica gel eluting with dichloromethane/2N NH3(methanol) (95/5) to give the title compound as a yellow oil. Prepare the HCl salt in diethyl ether: mp 197–199° C. MS (ACPI): m/e 198.1 (M+1). Analysis for C14H16ClN: Calcd: C, 71.94; H, 6.90; N, 5.99; found: C, 72.15; H, 6.84; N, 6.09.

reactant | 2-phenylphenylacetonitrile | 24.26 mmol, 4.69 g | C1(=CC=CC=C1)C1=C(C=CC=C1)CC#N | C14H11N
reactant | LiAlH4 | 72.81 mmol, 2.76 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-Phenylphenethylamine | C1(=CC=CC=C1)C1=C(CCN)C=CC=C1 | C14H15N
